US05705188
Synthesis of 3-O-(2-dimethylaminoethyl)sulfamoyl-1,2-O-dioleylglycerol
In 4 ml of methylene chloride-pyridine (2:1) was dissolved 150 mg (0.25 mmol) of 1,2-O-dioleylglycerol. Then, 1 ml of a solution of 150 mg (0.75 mmol) (2-dimethylaminoethyl)sulfamoyl chloride in methylene chloride was added and the reaction was carried out at ambient temperature for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was treated with methylene chloride-saturated aqueous sodium hydrogen carbonate solution. The methylene chloride layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel/methylene chloride-methanol) to provide 34 mg (18%) of the title compound. 1H-NMR (200 MHz, CDCl3) δ:0.88 (6H, t, J=6 Hz), 1.20-1.40 (44H, m), 1.45-1.65 (4H, m), 1.90-2.10 (8H, m), 2.24 (6H, s), 2.48 (2H, t, J=6 Hz), 3.18 (2H, t, J=6 Hz), 3.40-3.60 (6H, m), 3.60-3.75 (1H, m), 4.08-4.30 (2H, m), 5.30-5.40 (4H, m) MS (FAB): 743 (M+H)+

reactant | 1,2-O-dioleylglycerol | 0.25 mmol, 150 mg | C(CCCCCCC\C=C/CCCCCCCC)OCC(OCCCCCCCC\C=C/CCCCCCCC)CO | C39H76O3
reactant | (2-dimethylaminoethyl)sulfamoyl chloride | 0.75 mmol, 150 mg | CN(CCNS(=O)(=O)Cl)C | C4H11ClN2O2S
solvent | methylene chloride pyridine | 4 ml | C(Cl)Cl.N1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-O-(2-dimethylaminoethyl)sulfamoyl-1,2-O-dioleylglycerol | 34 mg, 18% | CN(CCNS(=O)(=O)OCC(COCCCCCCCC\C=C/CCCCCCCC)OCCCCCCCC\C=C/CCCCCCCC)C | C43H86N2O5S
